US07297524B2
Biosynthesis of the 2-amino-6-hydroxy-benzoquinone component of the farnesyl dibenzodiazepinone, requires components derived from the aminoshikimate pathway. FIG. 7 depicts the series of enzymatic reactions involved in the biosynthesis of this constituent. ORF 21 (ALDB) (SEQ ID NO: 42) resembles aldolases involved in the generation of precursors of D-erythrose-4-phosphate which is part of the aminoshikimate pathway used for the generation of 2-amino-6-hydroxy-[1,4]-benzoquinone. ORF 33 (DAHP) (SEQ ID NO: 67) catalyzes the initial step in the aminoshikimate pathway that corresponds to the formation of 3,4-dideoxy-4-amino-D-arabino-heptulosonic acid 7-phosphate (amino DAHP) from phosphoenolpyruvate (PEP) and erythrose 4-phosphate (E-4Ph). Subsequent reactions leading to 3-amino-5-hydroxy-benzoic acid are catalyzed by enzymes provided by primary metabolism biosynthetic pathways present in Micromonospora sp. strain 046-ECO11. ORF 25 (HOXV) (SEQ ID NO: 50) hydroxylates 3-amino-5-hydroxy-benzoic acid at position 2, generating 3-amino-2,5-dihydroxy-benzoic acid. This intermediate is further modified by ORF 32 (HOYH) (SEQ ID NO: 65) that catalyzes a decarboxylative oxidation reaction yielding 6-amino-benzene-1,2,4-triol. A final oxidation reaction is performed by ORF 16 (OXDS) (SEQ ID NO: 32) yielding 2-amino-6-hydroxy-[1,4]-benzoquinone (FIG. 7).

reactant | 2-amino-6-hydroxy-benzoquinone | NC=1C(C(=CC(C1)=O)O)=O | C6H5NO3
reactant | farnesyl dibenzodiazepinone | C(C=C(C)CCC=C(C)CCC=C(C)C)C1=CC=C2C(=C3C(=CN=N2)C=CC=C3)C1=O | C28H32N2O
reactant | aminoshikimate | C1[C@H]([C@@H]([C@@H](C=C1C(=O)O)O)O)N | C7H11NO4
reactant | D-erythrose-4-phosphate | P(=O)(O)(O)OC[C@H]([C@H](C=O)O)O | C4H9O7P
reactant | DAHP | C([C@H]([C@@H]([C@@H](COP(=O)(O)O)O)O)O)C(=O)C(=O)O | C7H13O10P
reactant | 3,4-dideoxy-4-amino-D-arabino-heptulosonic acid 7-phosphate | P(=O)(O)(O)OC[C@H]([C@H]([C@@H](CC(C(=O)O)=O)N)O)O | C7H14NO9P
reactant | phosphoenolpyruvate | C=C(C(=O)O)OP(=O)(O)O | C3H5O6P
reactant | 3-amino-5-hydroxy-benzoic acid | NC=1C=C(C(=O)O)C=C(C1)O | C7H7NO3
reactant | 3-amino-2,5-dihydroxy-benzoic acid | NC=1C(=C(C(=O)O)C=C(C1)O)O | C7H7NO4
product | 6-amino-benzene-1,2,4-triol | NC=1C=C(C=C(C1O)O)O | C6H7NO3
